US07820664B2
Step C: 7-Fluoro-6-(2-fluoro-4-iodophenylamino)-3-methylisoxazolo[4,3-b]pyridine-5-carboxylic acid:
To a solution of methyl 7-fluoro-6-(2-fluoro-4-iodophenylamino)-3-methylisoxazolo[4,3-b]pyridine-5-carboxylate (250 mg, 0.56 mmol) in a mixture of THF (10 ml) and H2O (5 ml) is added a solution of LiOH (67 mg, 2.8 mmol) in H2O (2.4 ml). After stirring at room temperature for 4 h, the reaction is concentrated, acidified with 1 M HCl solution, and extracted with EtOAc (2×20 ml). The organic solution is dried over MgSO4 and concentrated to give the title compound.

reactant | methyl 7-fluoro-6-(2-fluoro-4-iodophenylamino)-3-methylisoxazolo[4,3-b]pyridine-5-carboxylate | 0.56 mmol, 250 mg | FC=1C=2C(N=C(C1NC1=C(C=C(C=C1)I)F)C(=O)OC)=C(ON2)C | C15H10F2IN3O3
reactant | LiOH | 2.8 mmol, 67 mg | [Li+].[OH-]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | H2O | 5 ml | O | H2O
solvent | H2O | 2.4 ml | O | H2O
product | 7-Fluoro-6-(2-fluoro-4-iodophenylamino)-3-methylisoxazolo[4,3-b]pyridine-5-carboxylic acid | FC=1C=2C(N=C(C1NC1=C(C=C(C=C1)I)F)C(=O)O)=C(ON2)C | C14H8F2IN3O3
